US03932407
Preparation of 5,6-dimethyl-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one (50)
To a solution of 4.3 g (15.4 mmole) of 2-chloro-3-(carbethoxymethyl)-4,5-dimethyl-3,4-dihydroquinazoline in 50 ml of absolute ethanol was added a solution of 2.0 g (120 mmole) of ammonia in 25 ml of absolute ethanol, the system was stoppered and immersed in an oil bath (100°). After 16 hrs. of heating, the solution was cooled, the solvent removed in vacuo and the residue crystallized from 1N hydrochloride acid affording 2.29 g (59% yield) of yellow crystals mp 235°-40°.

reactant | 2-chloro-3-(carbethoxymethyl)-4,5-dimethyl-3,4-dihydroquinazoline | 15.4 mmole, 4.3 g | ClC1=NC2=CC=CC(=C2C(N1CC(=O)OCC)C)C | C14H17ClN2O2
reactant | ammonia | 120 mmole, 2.0 g | N | H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 5,6-dimethyl-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one | 2.29 g, 59% yield | CC1N2C(=NC3=CC=CC(=C13)C)NC(C2)=O | C12H13N3O
